US08008298B2
To a tan solution of 5-chloro-2-methylsulfanyl-phenylamine (5.4 g, 31 mmol.) in THF (35 mL) and MeOH (35 mL) was added dropwise a solution of 2,5-dimethoxy-tetrahydro-furan (5.3 mL, 40 mmol) and 2.5 M H2SO4 (31 mL, 78 mmol) in THF (45 mL) via addition funnel over 1 h. The reaction was cooled to 0° C. and NaBH4 (4.7 g, 124 mmol) was added portionwise over 1 h with vigorous stirring. The reaction mixture was allowed to slowly warm to room temperature, stirred at room temperature overnight, diluted with water (60 mL), stirred at room temperature overnight, slowly basified with NaOH (˜7 g) until pH˜10 while cooling with an ice bath, and extracted with Et2O. The combined organic extracts were extracted with 6 N HCl (100 mL). The aqueous phase was basified with NaOH (˜30 g, 0.75 mmol) until pH˜10, and extracted with Et2O. The organic extract was dried with Na2SO4 and concentrated to give 2 g of the crude product. The crude product was purified by flash chromatography using 40 g of silica gel and 5-50% EtOAc in hexanes as eluant to afford 0.55 g of 1-(5-chloro-2-methylsulfanyl-phenyl)-pyrrolidine. M+H 228.

reactant | 5-chloro-2-methylsulfanyl-phenylamine | 31 mmol, 5.4 g | ClC=1C=CC(=C(C1)N)SC | C7H8ClNS
reactant | 2,5-dimethoxy-tetrahydro-furan | 40 mmol, 5.3 mL | COC1OC(CC1)OC | C6H12O3
reactant | H2SO4 | 78 mmol, 2.5 M, 31 mL | OS(=O)(=O)O | H2O4S
reactant | NaBH4 | 124 mmol, 4.7 g | [BH4-].[Na+]
reactant | NaOH | ˜7 g | [OH-].[Na+]
reactant | NaOH | 0.75 mmol, ˜30 g | [OH-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | MeOH | 35 mL | CO | CH4O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | 1-(5-chloro-2-methylsulfanyl-phenyl)-pyrrolidine | 0.55 g | ClC=1C=CC(=C(C1)N1CCCC1)SC | C11H14ClNS
